US04614742
Synthesis of 2,4,5-Trifluoro-6-methoxyisophthalonitrile (i.e., Compound No. 20)
A 2.0 g amount of tetrafluoroisophthalonitrile was heated under reflux in 40 ml of methanol for 4 hours. The methanol was distilled off in vacuo to approximately one-fifth volume and ice water was then poured to the resultant mixture. The precipitated crystal was collected by filtration and was then washed with water and a small amount of cold methanol. After drying in vacuo, 1.6 g of the desired compound No. 20 was obtained.

reactant | tetrafluoroisophthalonitrile | FC1=C(C(=C(C(=C1C#N)F)C#N)F)F | C8F4N2
reactant | methanol | 40 ml | CO | CH4O
product | 2,4,5-Trifluoro-6-methoxyisophthalonitrile | FC1=C(C#N)C(=C(C(=C1C#N)F)F)OC | C9H3F3N2O
